US09085540B2
To a mixture of tert-butyl 4-(4-{[3-carbamoyl-6-(3-nitrophenoxy)pyrazin-2-yl]amino}phenyl)piperazine-1-carboxylate (1 g) and chloroform (30 mL) was added N-chlorosuccinimide (262 mg), and the reaction mixture was stirred at 50° C. for 15 hours and further, at 60° C. for 24 hours. To the reaction mixture was added silica gel, and the solvent was evaporated under reduced pressure and then purified by silica gel column chromatography (eluent; chloroform) to obtain tert-butyl 4-(4-{[3-carbamoyl-6-(3-nitrophenoxy)pyrazin-2-yl]amino}-2-chlorophenyl)piperazine-1-carboxylate (1.05 g) as a yellow solid.

reactant | tert-butyl 4-(4-{[3-carbamoyl-6-(3-nitrophenoxy)pyrazin-2-yl]amino}phenyl)piperazine-1-carboxylate | 1 g | C(N)(=O)C=1C(=NC(=CN1)OC1=CC(=CC=C1)[N+](=O)[O-])NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C26H29N7O6
reactant | N-chlorosuccinimide | 262 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(4-{[3-carbamoyl-6-(3-nitrophenoxy)pyrazin-2-yl]amino}-2-chlorophenyl)piperazine-1-carboxylate | 1.05 g | C(N)(=O)C=1C(=NC(=CN1)OC1=CC(=CC=C1)[N+](=O)[O-])NC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)Cl | C26H28ClN7O6
